US03956341
When an equivalent amount of 3,5-dicarbethoxy-1,4-dihydro-2,6-dimethyl-4-(3-trifluoromethylphenyl)pyridine is substituted in the procedure of Example 1 for 3,5-dicarbethoxy-1,4-dihydro-2,6-dimethyl-4-(2-trifluoromethylphenyl)pyridine, there is obtained 1,3,5-tricarbethoxy-1,4-dihydro-2,6-dimethyl-4-(3-trifluoromethylphenyl)pyridine.

reactant | 3,5-dicarbethoxy-1,4-dihydro-2,6-dimethyl-4-(3-trifluoromethylphenyl)pyridine | C(=O)(OCC)C1=C(NC(=C(C1C1=CC(=CC=C1)C(F)(F)F)C(=O)OCC)C)C | C20H22F3NO4
reactant | 3,5-dicarbethoxy-1,4-dihydro-2,6-dimethyl-4-(2-trifluoromethylphenyl)pyridine | C(=O)(OCC)C1=C(NC(=C(C1C1=C(C=CC=C1)C(F)(F)F)C(=O)OCC)C)C | C20H22F3NO4
product | 1,3,5-tricarbethoxy-1,4-dihydro-2,6-dimethyl-4-(3-trifluoromethylphenyl)pyridine | C(=O)(OCC)N1C(=C(C(C(=C1C)C(=O)OCC)C1=CC(=CC=C1)C(F)(F)F)C(=O)OCC)C | C23H26F3NO6
